US08492378B2
2-(chloromethyl)-5-[3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazole
A mixture of 3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-carbohydrazide (3.00 g, 8.92 mmol) and 2-chloro-1,1,1-trimethoxyethane (4.70 mL, 24.4 mmol) was stirred at 80° C. for 3 hr. The reaction mixture was purified by silica gel column chromatography (hexane/ethyl acetate=1/1) and recrystallized from hexane/ethyl acetate to give the title compound (2.39 g, yield 68%) as colorless crystals.

reactant | 3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-carbohydrazide | 8.92 mmol, 3.00 g | FC(OC=1C=C(C=CC1)C1=COC2=C1C=C(C=C2)C(=O)NN)(F)F | C16H11F3N2O3
reactant | 2-chloro-1,1,1-trimethoxyethane | 24.4 mmol, 4.70 mL | ClCC(OC)(OC)OC | C5H11ClO3
product | 2-(chloromethyl)-5-[3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazole | 2.39 g, yield 68% | ClCC=1OC(=NN1)C=1C=CC2=C(C(=CO2)C2=CC(=CC=C2)OC(F)(F)F)C1 | C18H10ClF3N2O3
